US05847153
Step 2 Preparation of 2-[(4-butoxybenzenesulfonyl)methyl]-2-propenoic acid.
A mixture of 2-bromomethylacrylic acid (1.0 g, 6.0 mmol), 4-butoxybenzenesulfinic acid, sodium salt (3.1 g, 13 mmol), sodium carbonate (1.9 g, 18 mmol) and dimethylformamide (20 mL) is refluxed overnight. The reaction mixture is then partitioned between ethyl acetate and aqueous 10% hydrochloric acid and the organic phase is concentrated in vacuo. The concentrate is chromatographed over silica gel 60 (230-400 mesh) with chloroform/methyl alcohol/acetic acid (94/5/1) and the eluate concentrated in vacuo to afford the title compound as a white solid.

reactant | 2-bromomethylacrylic acid | 6.0 mmol, 1.0 g | BrCC(C(=O)O)=C | C4H5BrO2
reactant | 4-butoxybenzenesulfinic acid | C(CCC)OC1=CC=C(C=C1)S(=O)O | C10H14O3S
reactant | sodium | 13 mmol, 3.1 g | [Na] | Na
reactant | sodium carbonate | 18 mmol, 1.9 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 2-[(4-butoxybenzenesulfonyl)methyl]-2-propenoic acid | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)CC(C(=O)O)=C | C14H18O5S
